US07960409B2
(S)-1,1,1-trifluoro-2-(1-{[4-(4-fluorophenyl)-2-(1-hydroxy-1-methylethyl)quinolin-7-yl]methyl}-1H-1,2,3-triazol-4-yl)butan-2-ol
To a solution of (S)-1-[4-(4-fluorophenyl)-7-({4-[1-hydroxy-1-(trifluoromethyl)propyl]-1H-1,2,3-triazol-1-yl}methyl)quinolin-2-yl]ethanone (100 mg, 0.21 mmol) in THF (5 mL) at −78° C. was added methylmagnesium bromide 3M in ether (210 μL, 0.63 mmole). The reaction was warmed up to rt over 2 h and quenched with saturated aqueous NH4Cl and extracted with EtOAc. The combined organic layers were washed with brine, dried over Na2SO4, filtered and concentrated under reduce pressure. Purification on silica gel (eluting with acetone/dichloromethane, 2:8) gave the title compound. MS (+ESI): 490 (M+H)+.

reactant | (S)-1-[4-(4-fluorophenyl)-7-({4-[1-hydroxy-1-(trifluoromethyl)propyl]-1H-1,2,3-triazol-1-yl}methyl)quinolin-2-yl]ethanone | 0.21 mmol, 100 mg | FC1=CC=C(C=C1)C1=CC(=NC2=CC(=CC=C12)CN1N=NC(=C1)[C@@](CC)(C(F)(F)F)O)C(C)=O | C24H20F4N4O2
reactant | methylmagnesium bromide | 3M | C[Mg]Br
reactant | ether | 0.63 mmole, 210 μL | CCOCC | C4H10O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | (S)-1,1,1-trifluoro-2-(1-{[4-(4-fluorophenyl)-2-(1-hydroxy-1-methylethyl)quinolin-7-yl]methyl}-1H-1,2,3-triazol-4-yl)butan-2-ol | FC([C@@](CC)(O)C=1N=NN(C1)CC1=CC=C2C(=CC(=NC2=C1)C(C)(C)O)C1=CC=C(C=C1)F)(F)F | C25H24F4N4O2
